Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
pollen extracts
 
Attending: ___.
 
Chief Complaint:
"I was having very serious thoughts of wanting to kill myself"

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This is a ___ male, no formal psychiatric history, with 
recent diagnosis of ADHD by his PCP, ___, no prior 
psychiatric hospitalizations or suicide attempts, unremarkable 
past medical history, currently a student at ___ 
___, who presented from student health on a ___ 
due to worsening depression and suicidal ideation in the setting 
of a recent break up with his girlfriend of 7 months. 
. 
Of note, patient presented to ___ ED with passive suicidal 
ideation on ___ and was discharged home from the ED with 
follow-up therapy appointment at ___. Patient broke up with 
his girlfriend of 7 months in ___, whom he continues to see 
at their shared part-time job. He adds that this was a "messy 
break-up" and that his now ex-girlfriend disclosed to him that 
she "had not loved me for the 3 past months." Patient states he 
feels he has been lied to. He reports that he has had worsening 
suicidal ideation since his last ED visit on ___. Since then, 
he has felt distance from his friends and roommates who have 
prioritized spending time with his ex-girlfriend which was 
upsetting to him.
. 
Per ___ referral note, this afternoon ___ officers brought 
patient in after they received a call from the patient's 
Residence Hall Director that the patient was experiencing 
suicidal ideation. Patient reported feeling unsafe and 
untrusting of himself. He endorsed the urge to step in front of 
train and/or
traffic, called the therapist to make an appointment for 3PM, 
and then felt unsafe getting to the appointment by himself 
without stepping in front of traffic. Student reports that he 
had felt this way a year ago around another break-up. Therapist 
recommended transport to ED for evaluation. 
. 
In ED, patient endorsed the above history. He reports feeling 
safer now in the hospital. Notably, patient was recently 
diagnosed with ADHD in ___ and started on 
methylphenidate 18 mg daily. 
. 
Collateral from ___ (Dr. ___ on 
call who received sign-out from Dr. ___: Saw patient 
yesterday ___ for post-ED check-in appointment. Patient had 
visited ___ ED on ___ with suicidal ideation prompted by 
break-up in ___, felt triggered to present to ED by 
sighting
his former partner at work and worried he would develop thoughts 
of suicide. Denied SI at ___ appointment, reported feeling safe 
after ED visit, supported by friends and family, helpful going 
to the hospital. Patient had had intake with community therapist 
(Dr. ___, PhD), was planning to continue to meet 
with him. Today, brought over by campus police, met with Dr.
___ expressed thoughts of suicide, worried about being 
alone and not trusting himself, concerned would impulsively walk 
in front of train or traffic. The night prior, he had considered 
different ways to jump out of dorm window (lives on ___ floor). 
Patient reported history one year prior of fleeting thoughts of 
suicide following break-up, unknown if he sought therapy at that 
time. Patient previously visited ___ during his 
first month of college regarding transition from rural to urban 
environment, at that time diagnosed with adjustment disorder. 
. 
On psychiatric review of systems, patient endorses depressive 
symptoms of hopelessness, worthlessness, and guilt related to 
coming into the hospital
(worries he is over exaggerating). His energy is low. He reports 
early awakenings, decreased appetite, weight loss, and increased 
concentration and memory which he attributes to methylphenidate. 
He has lost interest in his campus part-time job that he 
previously enjoyed because it reminds him of his girlfriend, 
however denies loss of interest in other social activities.  
Patient endorses suicidal ideation. When asked about his intent, 
the patient stated he thought he would have done it had he not 
notified his therapist and residence director. Patient denies 
homicidal ideation at present. When asked about manic symptoms, 
patient endorsed, "wild mood swings", and hyperactivity, adding 
that he believes this is his baseline. He clarifies stating 
there are days where he thinks about the break-up and "is okay 
with it", then feels low again the following day. He denies 
prior diagnoses of mania or bipolar disorder. When prompted 
regarding hallucinations, patient endorses "voices that are not 
mine" reciting thoughts of paranoia. He adds that he has in the 
past
struggled with "paranoia and trust issues." He denied visual 
hallucinations. He reports anxious symptoms of SOB and 
palpitations when at work or reminded of his ex-girlfriend and 
he is able to calm himself down. He denies history of major 
trauma or abuse, obsessive-compulsive behaviors, eating disorder 
behaviors. No hyperarousal or avoidance behaviors. 
. 
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: see HPI 
- Hospitalizations: denies 
- SA/SIB: denies/denies
- Medication Trials: Ritalin, recently started as noted above
- Psychiatrist: none
- Therapist: Dr. ___, PhD at ___ 
___ 

Past Medical History: 
- Denies 
 
Social History:
___
Family History:
Mother - ADHD, depression, recovering alcoholic
Brother - ___ 
 
Physical Exam:
*VS: VS: T: 98.5 HR: 87 BP: 129/79 RR: 16 SpO2: 100% RA Pain:3
Cognition: 
 Wakefulness/alertness: Alert
 *Attention (digit span, MOYB):MOYB ___ without pause
 *Orientation: Oriented to place, person, month, day, year. 
 Executive function (go-no go, Luria, trails, FAS): not assessed 

 *Memory: Immediate - ___, Recall - ___ 
 *Fund of knowledge: not assessed
 Calculations: $1.75 = 7 quarters  
 Abstraction: apples/oranges = "both fruits"
 Visuospatial: not assessed 
 Proverbs: no use crying over spilled milk, interpreted
correctly. 
 *Language: fluent ___  
 
Mental Status:
*Appearance: Young adult Caucasian male, appears stated age,
well-groomed, sitting on stretcher in hospital gown, tattoo on
left shoulder. 
*Behavior: Conversant with examiner and maintaining appropriate
eye contact throughout. 
*Speech: Normal tone, volume, prosody, articulation. Speed is
slowed. 
*Mood and Affect: "Indifferent, hungry." Affect is moderately
dysphoric with expansive range, congruent with stated mood. 
*Thought process / *associations: Logical, linear. 
*Thought Content: Suicidal ideation with fantasized plans and
intent: patient stated he thinks he would have done it had he 
not
notified school therapist and residence director. No HI, no
delusions. Endorses "voices that are not mine" reciting paranoid
thoughts. Does not appear to be responding to internal stimuli. 
*Judgment and Insight: Good insight into suicidal ideation and
judgment regarding consequences of SI had patient not sought
care.

 
Pertinent Results:
___ 11:25PM BLOOD WBC-6.2 RBC-5.55 Hgb-16.2 Hct-47.5 MCV-86 
MCH-29.2 MCHC-34.1 RDW-11.8 RDWSD-36.9 Plt ___
___ 11:25PM BLOOD Neuts-46.9 ___ Monos-10.6 Eos-1.0 
Baso-0.3 Im ___ AbsNeut-2.91 AbsLymp-2.54 AbsMono-0.66 
AbsEos-0.06 AbsBaso-0.02
___ 11:25PM BLOOD Plt ___
___ 11:25PM BLOOD Glucose-127* UreaN-14 Creat-1.1 Na-140 
K-4.4 Cl-100 HCO3-27 AnGap-17
___ 09:00AM BLOOD ALT-15 AST-14 LD(LDH)-139 AlkPhos-61 
TotBili-0.5
___ 09:00AM BLOOD TSH-2.1
___ 09:00AM BLOOD 25VitD-14*
___ 11:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
Briefly, this is a ___ year old single man, currently a sophomore 
at ___, no formal psychiatric history, no 
prior suicide attempts, unremarkable past medical history, who 
presents to ___ on a ___ from ___ who 
presents to ___ for worsening depression, suicidal ideation in 
the setting of recent break up with his girlfriend. 
. 
Upon interview with Mr. ___, who was a relatively reliable 
historian, he stated he has been struggling since late ___ 
after the unexpected break up with his  girlfriend of 7 months. 
In this setting, reported difficulty focusing on his school 
work, low mood, worsening anxiety with panic attacks in addition 
to suicidal ideation with thoughts of jumping in front of a car. 

. 
Diagnostically, believe patient is suffering from adjustment 
disorder with depressed mood-- as noted below, patient responded 
dramatically to the supportive environment of the milieu, 
reporting that he felt significantly better after several days 
on the unit and that he had gained perspective that although the 
breakup was painful, that there would be other meaningful 
relationships in his life. In addition to reported improvement 
in mood, his affect was also noted to have brightened 
significantly and was euthymic with thought process that was 
notably linear, goal and future oriented. 
Of note, nothing in his history to suggest prior manic episode 
consistent with bipolar, nor is there anything in his history 
concerning for underlying psychosis. He denies substance use, 
and tox screen was negative on admission. Given young age, good 
health, and unremarkable medical workup, I do not believe that 
an underlying medical condition was contributing at all to his 
presentation. 
.
#. Legal/Safety: patient was admitted to ___ on a 
___, upon admission, signed CV, which was accepted. Of 
note, he maintained his safety throughout his psychiatric 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints.  
.  
#. Adjustment disorder with depressed mood
- As noted above
- Patient was compliant in attending groups and maintained 
excellent behavioral control throughout his admission.  
- After discussion of the risks and benefits Celexa was 
initiated at 10 mg po qd, which he tolerated well with no 
complaints of side effects
- After discussion of the risks and benefits, patient was also 
started on Hydroxyzine ___ mg po prn anxiety, which he 
required minimal doses of. 
- Of note, Ritalin was held during this admission given his 
worsening anxiety with the recommendation to continue holding 
until he meets with his new psychiatrist, Dr. ___. 
- In the setting of the stabilizing environment of the milieu, 
patient consistently denied SI or thoughts of self harm and 
expressed desire to return back to school with follow up with 
outpatient treaters. 
- Of note, we attempted to reach his parents for collateral and 
discharge/safety planning, but we were unable to contact them 
before the patient's was ready for discharge. 
.
#. Medical: 
- No acute medical issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MethylPHENIDATE (Ritalin) 18 mg PO DAILY 

 
Discharge Medications:
1.  Citalopram 10 mg PO DAILY  
2.  HydrOXYzine 50 mg PO Q6H:PRN anxiety/insomnia  
3. HELD- MethylPHENIDATE (Ritalin) 18 mg PO DAILY  This 
medication was held. Do not restart MethylPHENIDATE (Ritalin) 
until you see your doctor.  It may negatively affect your mood 
and sleep 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder
Adjustment disorder 

 
Discharge Condition:
VS: 97.4PO 112 / 71 65 16 99 
A/B: Appears stated age, dressed casually, calm, cooperative, 
with interviewer, good eye contact, no psychomotor agitation or 
retardation noted
S: normal rate, volume, prosody
M: 'good' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, goal and future oriented
C: awake, alert and oriented 
I/J: fair/fair 

 
Discharge Instructions:
You were admitted to ___ with increased anxiety, depression, 
and thoughts of self harm. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___